Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
latex / silk tape
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP
 
History of Present Illness:
This is a ___ year old woman with a history of diabetes, benign 
lung mass s/p right upper lobectomy, AV replacement, and recent 
presentation with choledocholithiasis s/p ERCP ___ with stent 
but no sphincterotomy due to Plavix, interval cholecystectomy, 
now presents for planned sphincterotomy and stent removal. 

She underwent ERCP today, uncomplicated, with successful stent 
removal, sphincterotomy, and washout. She received 1L NS, 
tolerated the procedure well, and reports minimal RUQ tenderness 
with movement. No chest pain, no fevers/chills, no 
nausea/vomiting, no trouble breathing. 

She was directly admitted to the floor for observation. 
T 98.2  BP 133/73 HR 76 RR 16 O2 96 RA. She feels overall well, 
hungry. 

ROS:
Per hpi, otherwise rest of 10pt review negative
 
Past Medical History:
T2DM on insulin
Hyperlipidemia
s/p hysterectomy
s/p cholecystectomy
s/p ERCP with stent ___
s/p RU lobectomy for benign lung mass at ___
s/p aortic valve replacement on Plavix
h/o TIA

 
Social History:
___
Family History:
Mother had heart disease in her ___, died of kidney disease.
 
Physical Exam:
Admission exam:
Vitals: T 98.2  BP 133/73 HR 76 RR 16 O2 96 RA
GEN: Wella ppearing ,comfortable in bed
HEENT: Moist membranes, anicteric
NECK: No masses
HEART: RRR, systolic murmur ___ at ___
LUNGS: CTA bilaterally, good air movement
ABD: Trochar and drain incision sites c/d/I with no surrounding 
erythema, soft, nontender to light palpation, mild RUQ 
tenderness to deep palpatino
GU: No foley
EXT: Warm, no edema
NEURO: Alert, oriented x3
PSYCH: Full affect, mood appropriate

Discharge exam:
Vitals: 98.4 144/75 80 18 93 RA  
General: no acute distress
HEENT: PERRL, EOMI, oropharynx is clear
CV: r/r/r, systolic murmur at RUSB
Lungs: CTA bilaterally
Abd: soft, nontender throughout, normoactive bowel sounds
Ext: wwp, no edema
Neuro: no facial droop, moving all extremities

 
Pertinent Results:
Admission Labs:
___ 12:24PM BLOOD ___ PTT-30.1 ___
___ 12:24PM BLOOD ALT-37 AST-45* AlkPhos-118* Amylase-99 
TotBili-0.3 DirBili-<0.2 IndBili-0.3

Discharge labs:
___ 06:45AM BLOOD WBC-8.0 RBC-3.89* Hgb-10.8* Hct-34.4 
MCV-88 MCH-27.8 MCHC-31.4* RDW-13.2 RDWSD-42.7 Plt ___
___ 06:45AM BLOOD ALT-29 AST-24 AlkPhos-101 TotBili-0.4

ERCP ___
Limited exam of the esophagus was normal
•Limited exam of the stomach was normal
•Limited exam of the duodenum was normal
•The scout film revealed surgical clips and a plastic biliary 
stent in the RUQ. 
•A plastic stent was emerging from the major papilla. 
•The stent was successfully removed with a snare. 
•The CBD was successfully cannulated with the Hydratome 
sphincterotome preloaded with a 0.035in guidewire. 
•The guidewire was advanced into the intrahepatic biliary tree. 
•Contrast injection revealed multiple small filling defects in 
the distal CBD. 
•A sphincterotomy was successfully performed at the 12 o'clock 
position. 
•No post sphicnterotmy bleeding was noted. 
•The CBD was swept several times with successful removal of 
several stones and moderate amounts of sludge material. 
•Occlusion cholangiogram showed no further filling defects. 
•There was excellent spontaneous drainage of bile and contrast 
material at the end of the procedure.
•The pancreatic duct was partially filled with contrast and 
visualized proximally. 
•The course and caliber of the duct was normal. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of diabetes, 
benign lung mass s/p right upper lobectomy, AV replacement, and 
recent presentation with choledocholithiasis s/p ERCP ___ with 
stent but no sphincterotomy due to Plavix, interval 
cholecystectomy, now presents for planned sphincterotomy and 
stent removal. 

# Cholodocholithiasis: Patient admitted after scheduled ERCP for 
stent removal and sphincterotomy. She was monitored overnight 
without any occurrence in abdominal pain and her diet was 
advanced without complications. She was discharged with 
ciprofloxacin to complete a 5 day course. She will hold her 
Aspirin/Plavix for 5 days post-procedure. 

# DM: While npo, home lantus was held. Home metformin and 
glimepiride were also held on admission. Home lantus was 
restarted once patient able to tolerate PO. 

# HLD: Home statin continued.

# h/o TIA with AVR: Home aspirin/Plavix were held for 5 days 
post-procedure per ERCP recommendations. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. glimepiride 4 mg oral DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Rosuvastatin Calcium 20 mg PO QPM 
5. Glargine 25 Units Breakfast
Glargine 25 Units Dinner
6. MetFORMIN (Glucophage) 500 mg PO TID 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*8 Tablet Refills:*0 
2.  Glargine 25 Units Breakfast
Glargine 25 Units Dinner 
3.  glimepiride 4 mg oral DAILY  
4.  MetFORMIN (Glucophage) 500 mg PO TID  
5.  Rosuvastatin Calcium 20 mg PO QPM  
6. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until ___. HELD- Clopidogrel 75 mg PO DAILY  This medication was held. 
Do not restart Clopidogrel until ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
choledocholithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your stay at ___ 
___ ___. You were admitted for a planned ERCP, 
which was successful. You had a stent removed. For the 
procedure, you were given antibiotics, which you should finish 
as directed. Please continue to hold your aspirin and Plavix, 
you may restart them on ___. 

Take care,
Your ___ Team

 
Followup Instructions:
___